US07060827B2
In like manner to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, the reaction of 2,4-dichloro-5-fluoropyrimidine and 3-ethoxycarbonylaniline gave N2,N4-bis(3-ethoxycarbonylphenyl)-5-fluoro-2,4-pyrimidinediamine. LCMS: ret. time: 26.55 min.; purity: 100%; MS (m/e): 425 (MH+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 3-ethoxycarbonylaniline | C(C)OC(=O)C=1C=C(N)C=CC1 | C9H11NO2
product | N2,N4-bis(3-ethoxycarbonylphenyl)-5-fluoro-2,4-pyrimidinediamine | C(C)OC(=O)C=1C=C(C=CC1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)C(=O)OCC)F | C22H21FN4O4
